US06103717
fenarimol.
mepronil, metalaxyl, metconazole, methasulfocarb, methfuroxam, metiram, metsulfovax, myclobutanil,

reactant | mepronil | CC=1C=CC=CC1C(=O)NC2=CC=CC(=C2)OC(C)C | C17H19NO2
reactant | metalaxyl | CC1=CC=CC(=C1N(C(C)C(=O)OC)C(=O)COC)C | C15H21NO4
reactant | metconazole | CC1(CCC(C1(CN2C=NC=N2)O)CC=3C=CC(=CC3)Cl)C | C17H22ClN3O
reactant | methasulfocarb | CNC(=O)SC1=CC=C(C=C1)OS(=O)(=O)C | C9H11NO4S2
reactant | methfuroxam | CC1=C(OC(=C1C(=O)NC2=CC=CC=C2)C)C | C14H15NO2
reactant | metsulfovax | CC1=C(SC(=N1)C)C(=O)NC2=CC=CC=C2 | C12H12N2OS
reactant | myclobutanil | CCCCC(CN1C=NC=N1)(C#N)C=2C=CC(=CC2)Cl | C15H17ClN4
catalyst | metiram | C(CNC(=S)[S-])NC(=S)[S-].[Zn+2]
product | fenarimol | C=1C=CC(=C(C1)C(C=2C=CC(=CC2)Cl)(C=3C=NC=NC3)O)Cl | C17H12Cl2N2O
